US08053574B2
Step 2: [2-(1H-Tetrazol-5-yl)-ethyl]carbamic acid tert-butyl ester
(2-Cyano-ethyl)-carbamic acid tert-butyl ester (59.5 g, 0.35 mol) is dissolved in dry m-xylene 460 ml) and stirred at room temperature. Azidotributyltin (140 g, 0.42 mol) is added and the reaction mixture is heated to 115° C. overnight. On cooling to room temperature, the reaction mixture is quenched with 2M NaOH (500 ml), the layers are separated and the aqueous phase is acidified with 6M HCl to pH 2 resulting in a thick precipitate. DCM (500 ml) is added followed by IPA (50 ml) resulting in clear layers, the organic layer is separated and the aqueous is re-extracted with 9:1 DCM/IPA (2×250 ml). The organic layers are combined, washed with brine (500 ml), dried over MgSO4, filtered and concentrated in vacuo. The resulting solid is triturated with iso-hexanes (250 ml), stirred for 1 hour at room temperature then a further 1 hour at 5-10° C., filtered and dried under vacuum to afford the title compound.

reactant | (2-Cyano-ethyl)-carbamic acid tert-butyl ester | 0.35 mol, 59.5 g | C(C)(C)(C)OC(NCCC#N)=O | C8H14N2O2
reactant | Azidotributyltin | 0.42 mol, 140 g | N(=[N+]=[N-])[Sn](CCCC)(CCCC)CCCC
reactant | DCM | 500 ml | C(Cl)Cl | CH2Cl2
reactant | IPA | 50 ml | CC(C)O | C3H8O
solvent | m-xylene | 460 ml | C1(=CC(=CC=C1)C)C | C8H10
product | [2-(1H-Tetrazol-5-yl)-ethyl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCC1=NN=NN1)=O | C8H15N5O2
